US06025354
A solution of 2.8 g of 5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one ("A") [obtainable by reacting 1-(3,4-dimethoxyphenyl)-2-bromobutan-1-one with methyl hydrazinethioformate] in 150 ml of acetone is boiled with 3 g of 4-nitrobenzyl chloride in the presence of 4 g of potassium carbonate for eight hours. The insoluble residue is filtered off and the solution is concentrated. The residue is worked up in the conventional manner to give 3-(4-nitrobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one as a colorless oil.

reactant | 5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | 2.8 g | COC=1C=C(C=CC1OC)C1=NNC(SC1CC)=O | C13H16N2O3S
reactant | 1-(3,4-dimethoxyphenyl)-2-bromobutan-1-one | COC=1C=C(C=CC1OC)C(C(CC)Br)=O | C12H15BrO3
reactant | 4-nitrobenzyl chloride | 3 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-(4-nitrobenzyl)-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | [N+](=O)([O-])C1=CC=C(CN2C(SC(C(=N2)C2=CC(=C(C=C2)OC)OC)CC)=O)C=C1 | C20H21N3O5S
